US05637578
B. Synthesis of 3,6,9,12,18-Pentaazabicyclo[12.3.1]octadecan-2,13-dione
3,6,9,12,18-Pentaazabicyclo[12.3.1]octadeca-1(18),14,16-trien-2,13-dione prepared as in Example 38A (1.0 g, 3.6 mmol) was dissolved in methanol (75 ml) and concentrated hydrochloric acid (2.14 g, 21.7 mmol) was added, then the catalyst platinum dioxide hydrate (0.5 g, 2 mmol). The mixture was heated to 60° C. and hydrogenated at 60 psi for 24 h. A white crystalline solid formed during the hydrogenation. The reaction mixture was filtered, and the precipitate was washed with water to dissolve it. The filtrate was concentrated to remove the alcohol and sodium hydroxide (1.0N) was added to raise the pH to 11. This solution was extracted five times with dichloromethane (75 ml each), the solvent was removed under reduced pressure, and the resulting white solid was dried on the vacuum line to give 0.74 g (73% yield) of product: mp 193°-195.5° C. (dec); 1H NMR (CD2Cl2) δ 0.79-1.48 (several m, 5H), 1.88 (m, 2H), 2.01 (m, 2 H) , 2.63-2.88 (several m, 8 H) , 3.10 (m, 2H) , 3.24 (m, 2H), 3.36 (m, 2H), 7.71 (s, 2H).

reactant | 3,6,9,12,18-Pentaazabicyclo[12.3.1]octadeca-1(18),14,16-trien-2,13-dione | C1=2C(NCCNCCNCCNC(C(=CC=C1)N2)=O)=O | C13H19N5O2
reactant | hydrochloric acid | 21.7 mmol, 2.14 g | Cl | ClH
solvent | methanol | 75 ml | CO | CH4O
catalyst | platinum dioxide hydrate | 2 mmol, 0.5 g | O.[Pt](=O)=O
product | 3,6,9,12,18-Pentaazabicyclo[12.3.1]octadecan-2,13-dione | 0.74 g, 73% yield | C12C(NCCNCCNCCNC(C(CCC1)N2)=O)=O | C13H25N5O2
